US08278482B2
4-Acetyl-1-(2-(benzyloxycarbonylamino)-2-methylpropyl)-1-methylpiperazin-1-ium iodide
Benzyl 1-(4-acetylpiperazin-1-yl)-2-methylpropan-2-ylcarbamate (2.62 g, 7.86 mmol) was placed into a 15 mL pressure tube. Absolute ethanol (1.1 mL, 7.1 M) and methyl iodide (2.45 mL, 5 equiv, 39.3 mmol) was added to the pressure tube. A stir bar was added and the pressure tube sealed. The reaction was left to stir at room temperature for 7 days. The dark red solution was concentrated to a red oil which became a foam after drying under high vacuum. The foam was purified via Prep-LC using isocratic 95% water and 5% methanol for 5 min followed by a gradient to 95% methanol and 5% water over 16 min. Fraction were pooled to give recovered starting material (0.68 g, 20%) and product as a yellow foam (1.69 g, 45%). 1H NMR (D2O, 400 MHz): δ 1.51 (s, 6H), 2.12 (s, 3H), 3.23 (s, 3H), 3.35-3.60 (m, 5H), 3.68-3.85 (m, 4H), 3.92-4.02 (m, 1H), 5.11 (s, 2H), 7.38-7.48 (m, 5H). LRMS (ESI+) for C19H30N3O3+ (348.2); Found: 348 (M+).

reactant | Benzyl 1-(4-acetylpiperazin-1-yl)-2-methylpropan-2-ylcarbamate | 7.86 mmol, 2.62 g | C(C)(=O)N1CCN(CC1)CC(C)(C)NC(OCC1=CC=CC=C1)=O | C18H27N3O3
reactant | methyl iodide | 39.3 mmol, 2.45 mL, 5 equiv | CI | CH3I
solvent | ethanol | 7.1 M, 1.1 mL | C(C)O | C2H6O
product | 4-Acetyl-1-(2-(benzyloxycarbonylamino)-2-methylpropyl)-1-methylpiperazin-1-ium iodide | [I-].C(C)(=O)N1CC[N+](CC1)(C)CC(C)(C)NC(=O)OCC1=CC=CC=C1 | InChI=1S/C19H29N3O3.HI/c1-16(23)21-10-12-22(4,13-11-21)15-19(2,3)20-18(24)25-14-17-8-6-5-7-9-17;/h5-9H,10-15H2,1-4H3;1H
